US09403798B2
4-(Methylthio)-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one
N-[({[5-(trifluoromethyl)thiophen-2-yl]methyl}amino)carbonyl]-carbamimidothioate (2.68 g, 9.03 mmol) synthesized in Reference Synthesis Example 290, triethyl orthoformate (10 mL) was added and the resultant mixture was stirred at 150° C. for 1 hour. After completion of the reaction, the reaction solution was cooled to room temperature and ethanol (20 mL) was added, followed by cooling the resultant mixture to 0° C. The precipitated solid was collected by filtration and the solid was washed with ethanol to obtain the title compound (1.69 g, yield 61%).

reactant | N-[({[5-(trifluoromethyl)thiophen-2-yl]methyl}amino)carbonyl]-carbamimidothioate | 9.03 mmol, 2.68 g | FC(C1=CC=C(S1)CNC(=O)NC(=N)[S-])(F)F
reactant | triethyl orthoformate | 10 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | 4-(Methylthio)-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 1.69 g, yield 61% | CSC1=NC(N(C=N1)CC=1SC(=CC1)C(F)(F)F)=O | C10H8F3N3OS2
